US04988735
By working as described in example 3, but substituting N,N'-dimethyl-N-benzyl-N'-(3,4,5-trimethoxybenzoyl)-ethylenediamine with an equivalent amount of N,N'-dimethyl-N-(3,4,5-trimethoxybenzoyl)-ethylenediamine hydrochloride obtained as described in example 2, N,N'-dimethyl-N-(3,4,5-trimethoxybenzoyl)-ethylenediamine dihydrochloride was obtained.

reactant | N,N'-dimethyl-N-benzyl-N'-(3,4,5-trimethoxybenzoyl)-ethylenediamine | CN(CCN(C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C)CC1=CC=CC=C1 | C21H28N2O4
reactant | N,N'-dimethyl-N-(3,4,5-trimethoxybenzoyl)-ethylenediamine hydrochloride | Cl.CN(CCNC)C(C1=CC(=C(C(=C1)OC)OC)OC)=O
product | N,N'-dimethyl-N-(3,4,5-trimethoxybenzoyl)-ethylenediamine dihydrochloride | Cl.Cl.CN(CCNC)C(C1=CC(=C(C(=C1)OC)OC)OC)=O | InChI=1S/C14H22N2O4.2ClH/c1-15-6-7-16(2)14(17)10-8-11(18-3)13(20-5)12(9-10)19-4;;/h8-9,15H,6-7H2,1-5H3;2*1H
